US07713993B2
(2) Synthesis of 2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1-methyl-5-phenyl-1H-imidazole
A solution of methylamine (2 M solution in methanol, 2.7 mL) in acetic acid (5 mL) was added to a solution of (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-(2-oxo-2-phenylethyl)acrylic acid amide (100 mg) in xylene (10 mL), and the reaction solution was heated under reflux for 3.5 hours while evaporating methanol. The reaction solution was left to cool to room temperature and then concentrated under reduced pressure. Ethyl acetate and saturated sodium bicarbonate water were added to the residue, and the organic layer was separated. The resulting organic layer was dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by silica gel column chromatography (carrier: Chromatorex™ NH; elution solvent: heptane:ethyl acetate=1:1->ethyl acetate->ethyl acetate:methanol=5:1) to obtain 11 mg of the title compound. The property values of the compound are as follows.

reactant | methylamine | 2 M, 2.7 mL | CN | CH5N
reactant | (E)-3-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]-N-(2-oxo-2-phenylethyl)acrylic acid amide | 100 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C(=O)NCC(C1=CC=CC=C1)=O | C22H21N3O3
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | xylene | 10 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-{(E)-2-[3-methoxy-4-(4-methyl-1H-imidazol-1-yl)phenyl]vinyl}-1-methyl-5-phenyl-1H-imidazole | 11 mg | COC=1C=C(C=CC1N1C=NC(=C1)C)/C=C/C=1N(C(=CN1)C1=CC=CC=C1)C | C23H22N4O
